US07432279B2
6-[(2-morpholin-4-ylethyl)amino]-4-{[4-(trifluoromethyl)phenyl]amino}-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 34, 6-fluoro-4-{[4-(trifluoromethyl)phenyl]amino}-1,7-naphthyridine-3-carbonitrile was reacted with 2-morpholin-4-yl-ethylamine. The crude product was purified by flash column chromatography (2% methanol in methylene chloride) to give a yellow solid (0.14 g, 55%). 1H NMR (400 MHz, DMSO-D6) δ ppm 2.4 (m, 4 H) 3.4 (m, 2 H) 3.4 (m, 2 H) 3.6 (m, 4 H) 6.8 (m, 1 H) 6.9 (s, 1 H) 7.4 (d, J=8.3 Hz, 2 H) 7.7 (d, J=8.6 Hz, 2 H) 8.4 (s, 1 H) 8.9 (s, 1 H) 9.8 (s, 1 H).

reactant | 6-fluoro-4-{[4-(trifluoromethyl)phenyl]amino}-1,7-naphthyridine-3-carbonitrile | FC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC=C(C=C1)C(F)(F)F | C16H8F4N4
reactant | 2-morpholin-4-yl-ethylamine | N1(CCOCC1)CCN | C6H14N2O
product | 6-[(2-morpholin-4-ylethyl)amino]-4-{[4-(trifluoromethyl)phenyl]amino}-1,7-naphthyridine-3-carbonitrile | 0.14 g, 55% | N1(CCOCC1)CCNC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC=C(C=C1)C(F)(F)F | C22H21F3N6O
